### PR TITLE
Natural number arithmetic

### PR DESCRIPTION
**Pull request by patrick-nicodemus**
Created a new file Spaces/Nat/Arithmetic.v containing basic theorems of natural number arithmetic.
Changed the definition of leq so that it takes values in Type0 and updated other files which break because of this change.
Created an auto hint database "nat" with some of the most useful theorems.
Defined a new inductive type "increasing_geq" which is equivalent to the existing type `leq` but is more convenient for the proofs of some theorems (for example, searching for the least natural number satisfying a certain property)

(This PR is more or less identical to the one I had a month ago. One thing has been renamed for clarity)

### CODE REVIEW

File: theories/Spaces/Nat/Arithmetic.v [hunk 1]
```diff
@@ -0,0 +1,831 @@
...
+
+Global Hint Resolve not_lt_n_n : nat.
+Global Hint Resolve not_lt_n_0 : nat.
+Global Hint Resolve not_leq_Sn_0 : nat.
+Global Hint Extern 2 => nat_absurd_trivial : nat.
+(* This is defined so that it can be added to the nat auto hint database. *)
+Proposition eq_nat_sym : forall n m : nat,  n = m -> m = n.
+Proof.
+  intros n m; exact (symmetric_paths n m).
+Defined.
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:28]: Can this be done in one line like `transitive_paths_nat` below, with the same naming style?  And such definitions should be grouped together, with a shared comment explaining why they are all being made.  (Also, missing a blank line before the comment here.)

**Comment by jdchristensen** [comment]
Is this any different from #1653?  Is there a reason you opened a new PR?

In any case, it would be great to get all of these results into the library.  I don't know enough about the best approach to this material, so I can't give it an overall thumbs-up, but it contains many useful thins, is self-contained, and can be adjusted if the need arises.  I looked quickly at the beginning and noticed one stylistic thing, but I didn't review the whole file.

**Comment by mikeshulman** [comment]
I won't have a chance to look at this for probably another month or two, unfortunately.  As Dan says, we can adjust it later if necessary, but it would probably be a good idea for someone to at least look over the whole thing.

**Comment by patrick-nicodemus** [comment]
> Is this any different from #1653? Is there a reason you opened a new PR?
> 
> In any case, it would be great to get all of these results into the library. I don't know enough about the best approach to this material, so I can't give it an overall thumbs-up, but it contains many useful thins, is self-contained, and can be adjusted if the need arises. I looked quickly at the beginning and noticed one stylistic thing, but I didn't review the whole file.

@jdchristensen The existing PR was waiting for a review from Mike specifically because he requested certain changes a few months ago. The code was substantially rewritten and Mike's comments are no longer relevant. At the moment Mike is somewhat busy so I cancelled the existing PR, as this is a fresh PR it no longer requires his approval specifically to be merged. I can elaborate on the specifics if necessary. I will address the stylistic stuff.

File: theories/Spaces/Nat/Arithmetic.v (hunk 1 above)
Comment (patrick-nicodemus) [reply theories/Spaces/Nat/Arithmetic.v]: Yep.

File: theories/Spaces/Nat/Arithmetic.v [hunk 2]
```diff
@@ -0,0 +1,838 @@
...
+      destruct (nat_add_n_Sm (m - n) n).
+      destruct (symmetric_paths _ _ l).
+      reflexivity.
+Defined.
+
+Proposition natminusplusineq : forall n m : nat,  n <= n - m + m.
+Proof.
+  intros n m.
+  destruct (@leq_dichot m n) as [ | g].
+  - destruct (symmetric_paths _ _ (natminuspluseq _ _ l)); constructor.
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:323]: Here and one or two other places, you refer to a name `l` (ell) that is autogenerated by Coq.  On the previous line, you should put `l` (ell) before the `|` (bar).  Same for the other places.
```suggestion
  destruct (@leq_dichot m n) as [l | g].
  - destruct (symmetric_paths _ _ (natminuspluseq _ _ l)); constructor.
```

Comment (patrick-nicodemus) [reply theories/Spaces/Nat/Arithmetic.v]: @jdchristensen Thanks. I'm marking this as resolved, I think I fixed all these. If you want me to run the automated name mangling tool let me know. (I didn't do this because I am under the impression that it renames the even variable names which are explicitly named as function arguments, so it seems like a lot of work to use.)

**Comment by patrick-nicodemus** [comment]
@jdchristensen Do you have any time to look at this?

File: theories/Spaces/Nat/Arithmetic.v [hunk 3]
```diff
@@ -0,0 +1,912 @@
+Require Import Basics.
+Require Import Basics.Tactics.
+Require Import Types.Bool.
+Require Import Types.Sum.
+Require Import Basics.Utf8.
+Require Import Basics.Nat.
+Require Import Basics.Decidable.
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:7]: The four `Basics.*` lines are redundant, since all of Basics is Required.

File: theories/Spaces/Nat/Arithmetic.v [hunk 4]
```diff
@@ -0,0 +1,912 @@
...
+  forall n m k : nat, n = m -> m = k -> n = k := @transitive_paths nat.
+
+#[export] Hint Resolve symmetric_paths_nat | 5 : nat.
+#[export] Hint Resolve transitive_paths_nat : nat.
+#[export] Hint Resolve leq_0_n : nat.
+#[export] Hint Resolve leq_trans : nat.
+#[export] Hint Resolve leq_antisym : nat.
+
+Proposition assoc_nat_add :
+  forall n m k : nat, n + (m + k) = (n + m) + k.
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:43]: The colon should be on the second line.

I'll let you find further occurrences.

File: theories/Spaces/Nat/Arithmetic.v [hunk 5]
```diff
@@ -0,0 +1,912 @@
...
+#[export] Hint Resolve not_lt_n_n : nat.
+#[export] Hint Resolve not_lt_n_0 : nat.
+#[export] Hint Resolve not_leq_Sn_0 : nat.
+#[export] Hint Extern 2 => nat_absurd_trivial : nat.
+
+(* This is defined so that it can be added to the nat auto hint database. *)
+Local Definition symmetric_paths_nat :
+  forall n m : nat,  n = m -> m = n := @symmetric_paths nat.
+Local Definition transitive_paths_nat :
+  forall n m k : nat, n = m -> m = k -> n = k := @transitive_paths nat.
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:34]: Colon on second line.

File: theories/Spaces/Nat/Arithmetic.v [hunk 6]
```diff
@@ -0,0 +1,912 @@
...
+  match goal with
+  | [ H : ~ (?n < ?m) |- _] =>  apply not_lt_implies_geq in H
+  | [ H : ~ (?n <= ?m) |- _] => apply not_leq_implies_gt in H
+  | [|- ~ (?n < ?m) ] => apply leq_implies_not_gt
+  | [|- ~ (?n <= ?m) ] => apply lt_implies_not_geq
+  end.
+
+#[export] Hint Extern 2 => convert_to_positive : nat.
+
+(* Because of the inductive definition of <=, one can destruct the proof of n <= m and get a judgemental identification between n and m rather than a propositional one, which may be preferable to the following lemma. *)
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:90]: Comments of this sort usually start with `(**`.  Also, within comments, we put square brackets around Coq objects.  I think this causes them to be formatted properly in some viewers.  I won't comment about this elsewhere.

File: theories/Spaces/Nat/Arithmetic.v [hunk 7]
```diff
@@ -0,0 +1,912 @@
...
+Proposition leq_split {n m : nat} : (n <= m) -> sum (n < m) (n = m).
+Proof.
+  intro l. induction l.
+  - now right.
+  - left. exact (leq_S_n' _ _ l).
+Defined.
+
+Proposition diseq_implies_lt :
+  forall n m : nat, n <> m -> sum (n < m) (n > m).
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:99]: I think things like this are easy to read with `n` and `m` before the `:`, like in the previous proposition.  This also avoids a bit of the intros, and lets you specify whether they are explicit or implicit arguments.

File: theories/Spaces/Nat/Arithmetic.v [hunk 8]
```diff
@@ -0,0 +1,912 @@
...
+Proof.
+  intro n; induction n.
+  - reflexivity.
+  - intro m; induction m; intro k.
+    + change (0 + k) with k; reflexivity.
+    + change (m.+1 + k) with (m + k).+1; apply IHn.
+Defined.
+
+#[export] Hint Resolve subsubadd : nat.
+Proposition subsubadd' : forall n m k : nat, n - m - k= n - (m + k).
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:264]: Insert blank line above.  Check whole file for customary spacing.

File: theories/Spaces/Nat/Arithmetic.v [hunk 9]
```diff
@@ -0,0 +1,912 @@
...
+Proposition sub_n_0 : forall n : nat, n - 0 = n.
+Proof.
+ destruct n; reflexivity.
+Defined.
+
+Ltac rewrite_subn0 :=
+  match goal with
+  | [ |- context [ ?n - 0 ] ] => rewrite -> sub_n_0
+  end.
+Ltac rewrite_subnn :=
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:188]: Blank line above.

**Review by jdchristensen — COMMENTED** [review]
I didn't give this a careful review.  Someone who knows about implementing the natural numbers should really take a look.  But I'm also ok with merging it if the minor stylistic issues are fixed.

(I'd also like it better if the unrelated commits were removed, but maybe that's too error-prone to worry about.)

**Comment by patrick-nicodemus** [comment]
@jdchristensen Can you take another look at this when you get a chance? Thank you.
I have also removed some irrelevant commits from the history.

**Comment by jdchristensen** [comment]
I'm still hoping that somebody with experience of implementing arithmetic will give this a quick glance.  But if I don't hear from anybody in a day or two, I'll merge it.

@patrick-nicodemus , can you move the current Nat.v to Nat/Core.v, and then make a new Nat.v that Require Export's the two files?  (Like Pos.v, Int.v, etc.  But not like BAut.v, which doesn't follow this pattern for some reason.)

**Comment by Alizter** [comment]
Baut was created before we thought of the pattern I believe.

**Comment by jdchristensen** [comment]
I've now skimmed over the the whole file and think it's a great contribution.  I'll merge once the change mentioned above is made, unless anyone else has comments in the meantime.

**Comment by jdchristensen** [comment]
@patrick-nicodemus Can you make those changes I mentioned?  I think it should be very easy.

**Comment by patrick-nicodemus** [comment]
Yes. I will do it tonight

File: theories/Classes/orders/semirings.v [hunk 10]
```diff
@@ -1,3 +1,5 @@
+Require Import HoTT.Basics.Decidable.
+Require Import HoTT.Spaces.Nat.Core.
```
Comment (jdchristensen) [inline theories/Classes/orders/semirings.v:2]: I wonder why these are needed if they weren't needed before.

**Comment by jdchristensen** [comment]
I didn't realize how many explicit references there were to `Nat`.  I hope that change wasn't too much trouble.  Also, the diff looks odd because the AbSES folder was moved.  I hope the merge was done correctly.  Can you confirm and/or rebase?

**Comment by patrick-nicodemus** [comment]
I did a rebase, hopefully this fixes the irrelevant AbSES stuff

File: theories/Classes/orders/semirings.v (hunk 10 above)
Comment (patrick-nicodemus) [reply theories/Classes/orders/semirings.v]: Never mind. This was unnecessary. I must have made a mistake while recompiling everything.

**Comment by jdchristensen** [comment]
Thanks for doing all of this work, and also for your patience!

**Comment by patrick-nicodemus** [comment]
At long last we have a proof of the associativity of natural number addition in the library. 🥳

**Comment by jdchristensen** [comment]
If you are interested in proving similar results about the integers, there's tons of basic things we don't have...
